************************************************************************
* auCdl Netlist:
* 
* Library Name:  TeamKEK
* Top Cell Name: MULT2bit
* View Name:     schematic
* Netlisted on:  Dec  5 01:31:13 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TeamKEK
* Cell Name:    NAND
* View Name:    schematic
************************************************************************

.SUBCKT NAND A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MM0 Y A VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM1 Y B VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM3 net11 A VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM2 Y B net11 VSS nmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV IN OUT VDD VSS
*.PININFO IN:I OUT:O VDD:B VSS:B
MM0 OUT IN VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM1 OUT IN VDD VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MM1 Y A net1 VDD pmos_rvt w=81.0n l=20n nfin=3
MM0 net1 B VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM3 Y A VSS VSS nmos_rvt w=54.0n l=20n nfin=2
MM2 Y B VSS VSS nmos_rvt w=54.0n l=20n nfin=2
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    XNOR_NOR
* View Name:    schematic
************************************************************************

.SUBCKT XNOR_NOR A B NAND VDD VSS Y
*.PININFO A:I B:I NAND:I Y:O VDD:B VSS:B
MM1 net5 A net1 VDD pmos_rvt w=81.0n l=20n nfin=3
MM0 net1 B VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM4 B VSS VSS VSS nmos_rvt w=54.0n l=20n nfin=2
MM3 net5 A B VSS nmos_rvt w=54.0n l=20n nfin=2
MM2 net5 B A VSS nmos_rvt w=54.0n l=20n nfin=2
XI2 NAND net5 VDD VSS Y / NOR
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    MULT2bit
* View Name:    schematic
************************************************************************

.SUBCKT MULT2bit A<1> A<0> B<1> B<0> VDD VSS Y<1> Y<0>
*.PININFO A<1>:I A<0>:I B<1>:I B<0>:I Y<1>:O Y<0>:O VDD:B VSS:B
XI0 A<0> B<0> VDD VSS net3 / NAND
XI1 net3 Y<0> VDD VSS / INV
XI6 A<1> B<1> net3 VDD VSS Y<1> / XNOR_NOR
.ENDS

