************************************************************************
* auCdl Netlist:
* 
* Library Name:  TeamKEK
* Top Cell Name: Ripple_Adder_2_bit
* View Name:     schematic
* Netlisted on:  Dec  7 22:45:25 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TeamKEK
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MM12 Y net1 VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM11 net1 B A VSS nmos_rvt w=81.0n l=20n nfin=3
MM10 net1 A B VSS nmos_rvt w=81.0n l=20n nfin=3
MM9 Y net1 VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM8 net24 A VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM7 net1 B net24 VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    AND
* View Name:    schematic
************************************************************************

.SUBCKT AND A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MM4 Y net1 VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM0 net1 A VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM1 net1 B VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM6 Y net1 VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM3 net11 B VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM2 net1 A net11 VSS nmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    Half_Adder
* View Name:    schematic
************************************************************************

.SUBCKT Half_Adder A B Cout S VDD VSS
*.PININFO A:I B:I Cout:O S:O VDD:B VSS:B
XI0 A B VDD VSS S / XOR
XI3 A B VDD VSS Cout / AND
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    INV
* View Name:    schematic
************************************************************************

.SUBCKT INV IN OUT VDD VSS
*.PININFO IN:I OUT:O VDD:B VSS:B
MM0 OUT IN VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM1 OUT IN VDD VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    NOR
* View Name:    schematic
************************************************************************

.SUBCKT NOR A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MM1 Y A net1 VDD pmos_rvt w=81.0n l=20n nfin=3
MM0 net1 B VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM3 Y A VSS VSS nmos_rvt w=54.0n l=20n nfin=2
MM2 Y B VSS VSS nmos_rvt w=54.0n l=20n nfin=2
.ENDS

************************************************************************
* Library Name: TeamKEK
* Cell Name:    Ripple_Adder_2_bit
* View Name:    schematic
************************************************************************

.SUBCKT Ripple_Adder_2_bit A<1> A<0> B<1> B<0> S<2> S<1> S<0> VDD VSS
*.PININFO A<1>:I A<0>:I B<1>:I B<0>:I S<2>:O S<1>:O S<0>:O VDD:B VSS:B
XI13 net4 net5 VDD VSS S<1> / XOR
XI0 A<1> B<1> VDD VSS net4 / XOR
XI6 A<0> B<0> net5 S<0> VDD VSS / Half_Adder
XI12 S<1> net2 VDD VSS / INV
XI10 B<1> A<1> VDD VSS net8 / NOR
XI11 net8 net2 VDD VSS S<2> / NOR
.ENDS

