************************************************************************
* auCdl Netlist:
* 
* Library Name:  TeamKEK
* Top Cell Name: XOR
* View Name:     schematic
* Netlisted on:  Nov 20 22:49:12 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: TeamKEK
* Cell Name:    XOR
* View Name:    schematic
************************************************************************

.SUBCKT XOR A B VDD VSS Y
*.PININFO A:I B:I Y:O VDD:B VSS:B
MM2 Y A net6 VSS nmos_rvt w=81.0n l=20n nfin=3
MM3 net6 B VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM0 Y A B VDD pmos_rvt w=81.0n l=20n nfin=3
MM1 Y B A VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS

